US09227918B2
To a solution of 1.01 g (6.09 mmol) of 5-formyl-2-hydroxybenzoic acid in 25 mL of acetone was added 4.25 g (30.5 mmol) of potassium carbonate and 1.15 mL (18.3 mmol) of iodomethane. The mixture was heated to reflux for about 16 h, cooled to 22° C. and filtered. The collected solid was washed with acetone. The filtrates were combined, evaporated and the residue purified by flash chromatography on silica gel eluting with a mixture of hexane and ethyl acetate to give methyl 5-formyl-2-methoxybenzoate as an off-white solid. To a solution of 0.609 g (3.66 mmol) of 5-formyl-2-methoxybenzoate in 10 mL of acetic acid at 22° C. was added 2.2 mL (22 mmol) of n-butylamine followed by 0.337 mL (5.50 mmol) of nitromethane. The mixture was heated to reflux for 3 h, cooled to 22° C. and poured into 250 mL of water. A yellow precipitate resulted which dissolved when the mixture was extracted with 200 mL of ethyl acetate. The organic layer was washed with saturated NaHCO3 (2×100 mL), dried (Na2SO4) and evaporated. The residue was purified by flash chromatography on silica gel eluting with a mixture of hexane and ethyl acetate to give methyl 2-methoxy-5-(2-nitrovinyl)benzoate.

reactant | 5-formyl-2-methoxybenzoate | 3.66 mmol, 0.609 g | C(=O)C=1C=CC(=C(C(=O)[O-])C1)OC
reactant | n-butylamine | 22 mmol, 2.2 mL | C(CCC)N | C4H11N
reactant | nitromethane | 5.50 mmol, 0.337 mL | [N+](=O)([O-])C | CH3NO2
reactant | water | 250 mL | O | H2O
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | methyl 2-methoxy-5-(2-nitrovinyl)benzoate | COC1=C(C(=O)OC)C=C(C=C1)C=C[N+](=O)[O-] | C11H11NO5
